US06900307B1
3,4-dimethoxyphenylsulfonyl chloride (2.3 mmol) was dissolved in acetone (60 mL), and then NaI (3.4 g, 23 mmol) and fluoroacetic anhydride (1.45 mL, 6.9 mmol) were added and the mixture was stirred at room temperature for one hour. The reaction solution was concentrated, water was added, extraction was performed with ether and the organic layer was further washed with aqueous sodium thiosulfate, water and saturated saline. After drying over magnesium sulfate and vacuum concentration, the residue was purified with a silica gel column (hexane) to obtain 3,4-dimethoxyphenyldisulfide as a light yellow crystalline compound (58% yield). The NMR and mass spectral data for the obtained compound were as follows:

reactant | 3,4-dimethoxyphenylsulfonyl chloride | 2.3 mmol | COC=1C=C(C=CC1OC)S(=O)(=O)Cl | C8H9ClO4S
reactant | NaI | 23 mmol, 3.4 g | [Na+].[I-]
reactant | fluoroacetic anhydride | 6.9 mmol, 1.45 mL | FCC(=O)OC(CF)=O | C4H4F2O3
solvent | acetone | 60 mL | CC(=O)C | C3H6O
product | 3,4-dimethoxyphenyldisulfide | COC=1C=C(C=CC1OC)SSC1=CC(=C(C=C1)OC)OC | C16H18O4S2
